US04904657
To a solution of 1.10 g of 3-cyano-1-ethoxycarbonyl-2-piperidino-4H-quinolizin-4-one (Example 6, S-35) in 30 ml of ethylene glycol was added 150 mg of 60% sodium hydride, and the reaction mixture was stirred at 100° C. for 14 hours. After cooling, the precipitated crystals were collected by filtration and then the crude crystals were chromatographed on a silica gel column using a mixed solvent of dichloromethane and diethyl ether (1:1) as an eluent to obtain 180 mg of 3-cyano-1-(2-hydroxyethoxycarbonyl)-2-piperidino-4H-quinolizin-4-one.

reactant | 3-cyano-1-ethoxycarbonyl-2-piperidino-4H-quinolizin-4-one | 1.10 g | C(#N)C1=C(C(=C2C=CC=CN2C1=O)C(=O)OCC)N1CCCCC1 | C18H19N3O3
reactant | sodium hydride | 150 mg | [H-].[Na+]
reactant | ethylene glycol | 30 ml | C(CO)O | C2H6O2
product | 3-cyano-1-(2-hydroxyethoxycarbonyl)-2-piperidino-4H-quinolizin-4-one | 180 mg | C(#N)C1=C(C(=C2C=CC=CN2C1=O)C(=O)OCCO)N1CCCCC1 | C18H19N3O4
